US04339443
Sodium (1-(2,4-dinitrophenylhydrazono)ethyl)methylphosphinate
Sodium acetylmethylphosphinate (4.3 g) and 2,4-dinitrophenylhydrazine (5.9 g) were refluxed and stirred in ethanol (150 ml). After 1 hr the hydrazine had disappeared to be replaced by a yellow solid. The mixture was refluxed and stirred a further hour, cooled and the hydrazone filtered off, washed with a little cold ethanol and dried (8.0 g). The filtrate on evaporation gave residual material (1.4 g).

reactant | Sodium acetylmethylphosphinate | 4.3 g | C(C)(=O)CP([O-])=O.[Na+]
reactant | 2,4-dinitrophenylhydrazine | 5.9 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NN | C6H6N4O4
reactant | hydrazine | NN | H4N2
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | Sodium (1-(2,4-dinitrophenylhydrazono)ethyl)methylphosphinate | 1.4 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NN=C(C)P([O-])(=O)C.[Na+] | InChI=1S/C9H11N4O6P.Na/c1-6(20(2,18)19)10-11-8-4-3-7(12(14)15)5-9(8)13(16)17;/h3-5,11H,1-2H3,(H,18,19);/q;+1/p-1
